US07090953B2
A 271 ml quantity of DMF (3.5 mol) was added to a 1-liter, 3-neck round bottom flask equipped with a mechanical stirrer, a thermometer, and an addition funnel. The contents were cooled in a salt/ice bath. When the temperature inside the flask reached 0° C., 326 ml of POCl3 (3.5 mol) was slowly added. During the addition of POCl3, the temperature inside the flask was not allowed to rise above 5° C. After the addition of POCl3, the reaction mixture was allowed to warm to room temperature. After the flask warmed to room temperature, N-ethylcarbazole (93 g) in 70 ml of DMF was added, and then the flask was heated to 90° C. for 24 hours using a heating mantle. Then, the reaction mixture was cooled to room temperature, and the reaction mixture was added slowly to a cooled 4.5 liter beaker containing a solution comprising 820 g of sodium acetate dissolved in 2 liters of water. The beaker was cooled in an ice bath and stirred for 3 hours. The brownish solid obtained was filtered and washed repeatedly with water, followed by a small amount of ethanol (50 ml). After washing, the resulting product was recrystallized once from toluene using activated charcoal and dried under vacuum in an oven heated at 70° C. for 6 hours to obtain 55 g (46% yield) of N-ethyl-3,6-diformylcarbazole. The 1H-NMR spectrum (250 MHz) of the product in CDCl3 was characterized by the following chemical shifts (δ, ppm): 10.12 (s, 2H); 8.63 (s, 2H); 8.07 (d, 2H); 7.53 (d, 2H); 4.45 (m, 2H); 1.53 (t, 3H).

reactant | POCl3 | 3.5 mol, 326 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N-ethylcarbazole | 93 g | C(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H13N
reactant | sodium acetate | 820 g | C(C)(=O)[O-].[Na+]
reactant | DMF | 70 ml | CN(C)C=O | C3H7NO
reactant | DMF | 3.5 mol | CN(C)C=O | C3H7NO
solvent | water | 2 liters | O | H2O
product | N-ethyl-3,6-diformylcarbazole | 55 g, 46% yield | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C=O)C=O | C16H13NO2
